US07208494B2
g) (R)-6-Bromo-7-ethoxy-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
This compound was prepared in analogy to example 1, intermediate h) from (R)-6-bromo-7-ethoxy-4-methyl-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one, lithium aluminum hydride and subsequent reaction of the amine with di-tert-butyl-dicarbonate and 4-(dimethylamino)pyridine.

reactant | (R)-6-bromo-7-ethoxy-4-methyl-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | BrC=1N=C2N3[C@@H](CNC(C3=CC2=CC1OCC)=O)C | C13H14BrN3O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | di-tert-butyl-dicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (R)-6-Bromo-7-ethoxy-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC3=CC(=C(N=C3N2[C@@H](C1)C)Br)OCC | C18H24BrN3O3
